US06696597B2
FIGS. 24A and 24B show another synthesis of E,E-8,10-dodecadienol. With reference to FIG. 24A, 8-chlorooctan-1-yl acetate was synthesized from the cross metathesis of 1,10-diacetoxy-5-decene and 1,6-dichloro-3-hexene with Catalyst 801 to yield 8-chloro-5-octen-1-yl acetate, which was reduced and deacetylated. With reference to FIG. 24B, 8-chlorooctan-1-yl acetate was refluxed with two equivalents of triethyl phosphite in toluene for four hours to yield the octanol phosphonate intermediate. The mixture was cooled to −40° C. under argon. Lithium diisopropyl amine was added (2.3 mol equivalents to the phosphonate) and slowly warmed to room temp. Freshly distilled crotonaldehyde (2 mol equivalents) was added and stirred at room temp for 4 hours. The mixture was worked up to yield 8,10-dodecadienol.

reactant | E,E-8,10-dodecadienol | C(CCCCCC\C=C\C=C\C)O | C12H22O
reactant | 8-chlorooctan-1-yl acetate | C(C)(=O)OCCCCCCCCCl | C10H19ClO2
reactant | 1,10-diacetoxy-5-decene | C(C)(=O)OCCCCC=CCCCCOC(C)=O | C14H24O4
reactant | 1,6-dichloro-3-hexene | ClCCC=CCCCl | C6H10Cl2
product | 8-chloro-5-octen-1-yl acetate | C(C)(=O)OCCCCC=CCCCl | C10H17ClO2
